US04904664
A mixture of 1,4-bis(4-methyl-6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzene (1.41 g), sodium m-nitrobenzenesulphonate (2.20 g) and sodium hydroxide (1 g) in water (100 ml) was stirred under reflux until a clear solution was obtained. Stirring under reflux was continued for one hour and the reaction mixture was cooled to room temperature and filtered. The filtrate was acidified with acetic acid to give a white precipitate, which could not be collected by filtration as it passed through the sinter funnel. The mixture was basified with sodium hydroxide to pH 14 and the resulting solution was then taken to pH 10 with aqueous sodium bicarbonate and allowed to stand at room temperature for 16 hours. A pale yellow solid was collected and was dissolved in dilute aqueous sodium hydroxide. The solution was taken to pH 11 with saturated aqueous ammonium chloride to afford 1,4-bis(4-methyl-6-oxo-1,6-dihydropyridazin-3-yl)benzene (1.02 g), m.p.>250° C.

reactant | 1,4-bis(4-methyl-6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzene | 1.41 g | CC1C(=NNC(C1)=O)C1=CC=C(C=C1)C1=NNC(CC1C)=O | C16H18N4O2
reactant | sodium m-nitrobenzenesulphonate | 2.20 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 1,4-bis(4-methyl-6-oxo-1,6-dihydropyridazin-3-yl)benzene | 1.02 g | CC=1C(=NNC(C1)=O)C1=CC=C(C=C1)C1=NNC(C=C1C)=O | C16H14N4O2
